US04261897
Synthesis of isopropyl (chlorosulfinyl)(phenyl)carbamate.
Eighteen grams isopropyl phenylcarbamate (~0.1 mol) and 14.0 g thionyl chloride (0.12 mol) were dissolved in 50 ml dry tetrahydrofuran and protected from moisture by a calcium chloride tube. Eight grams pyridine (0.1 mol) were added dropwise while the mixture was stirring at a water bath temperature (15°-20° C.). After the addition of pyridine was completed, the mixture was stirred for 12 hours at room temperature. Pyridine hydrochloride was filtered and the solvent was removed under vacuum. The concentrated residue was diluted with hexane and filtered. The hexane was removed under vacuum and the residue was distilled, giving 16.0 g of product distilling at 113-115/0.08 mm. NMR spectrum of the product in chloroform-d-TMS gave the following absorptions: δ7.6-7.2 (m, 5H, phenyl protons), δ5.5-4.9 (m, 1H, CH) and δ1.4-1.3 (d, 6H, C(CH3)2).

reactant | isopropyl phenylcarbamate | ~0.1 mol, Eighteen grams | C1(=CC=CC=C1)NC(OC(C)C)=O | C10H13NO2
reactant | thionyl chloride | 0.12 mol, 14.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.1 mol, Eight grams | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | isopropyl (chlorosulfinyl)(phenyl)carbamate | 16.0 g | ClS(=O)N(C(OC(C)C)=O)C1=CC=CC=C1 | C10H12ClNO3S
